Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Protonix / terazosin / omeprazole / prednisone / adhesive tape / 
Plavix
 
Attending: ___.
 
Chief Complaint:
Nausea and vomiting; abdominal pain
 
Major Surgical or Invasive Procedure:
___: emergency laparotomy for small bowel necrosis with 
antrectomy and primary anastomosis x

 
History of Present Illness:
Patient is an ___ year old male with a history of CAD complicated 
by MI s/p stenting (___) and ICD placement (___), 
insulin dependent diabetes, hypertension, and dementia who 
presents as a transfer from ___ with concern for a closed 
loop small bowel obstruction. History was obtained from 
patient's wife and son. Patient was admitted to ___ 
1 week ago for anorexia
and difficulty with eating. He was switched to a pureed diet and 
the discharged to rehab. At rehab, he developed nausea/vomiting 
2 days ago and severe abdominal pain at 11am yesterday, which 
has since worsened. No associated fevers or chills. His last 
bowel movement was supposedly 2 days ago. He was initially taken 
back to ___ yesterday, where labs were notable for 
WBC of 23.7 and lactate of 3.9. Imaging demonstrated concern for 
a closed loop small bowel obstruction. An NGT was placed. 
Patient received 2L IVF and was transferred to ___. ACS is 
consulted for further management. 

Currently, the patient is tachycardic to the 100s, afebrile, and 
hemodynamically stable. On exam, he is uncomfortable and tender 
to palpation throughout without rebound tenderness. Labs are 
notable for a WBC count of 28 with 92% neutraphils, Hct of 46.9, 
and lactate of 3.5. The patient was started on zosyn. He 
partially removed his NGT, which we replaced and confirmed
positioning on xray. He is now in restraints. 

 
Past Medical History:
Dementia
CAD c/b MI s/p stenting (___), s/p implanted cardiac
monitor
IDDM
Hypertension
 
Social History:
___
Family History:
Non-contributory

 
Physical Exam:
Admission
Vitals: Temp 97.1, HR 102, BP 120/64, RR 18, SpO2 98%
General: eyes closed, minimally responsive, mild
distress/groaning when addressed by name
CV: sinus tachycardia
Pulm: normal respiratory effort
GI: abdomen soft, non-distended, tender to palpation throughout
without rebound or guarding
Extremities: warm and well perfused

Discharge:
Vitals: Temp 98.8,HR 56, BP 112/65, RR 15, Sp02 100% RA
Gen: NAD, AAOx1
CV: RRR, without murmur
Resp: breaths unlabored, CTAB, without wheezing or rales
Abdomen: soft, nondistended, nontender, without 
rebound/guarding, vertical midline incision with minimal 
erythema
Wound: incision clean, dry, intact with staples
Ext: warm, nontender and without edema

 
Pertinent Results:
Labs:
___ 12:14AM BLOOD WBC-28.0* RBC-5.48 Hgb-15.1 Hct-46.9 
MCV-86 MCH-27.6 MCHC-32.2 RDW-14.9 RDWSD-46.3 Plt ___
___ 04:01AM BLOOD WBC-19.8* RBC-3.55* Hgb-9.7* Hct-29.8* 
MCV-84 MCH-27.3 MCHC-32.6 RDW-15.2 RDWSD-46.1 Plt ___
___ 02:00AM BLOOD WBC-15.3* RBC-3.81* Hgb-10.5* Hct-32.0* 
MCV-84 MCH-27.6 MCHC-32.8 RDW-15.3 RDWSD-46.5* Plt ___
___ 04:14AM BLOOD WBC-11.5* RBC-3.91* Hgb-10.6* Hct-32.8* 
MCV-84 MCH-27.1 MCHC-32.3 RDW-14.8 RDWSD-45.1 Plt ___
___ 06:10AM BLOOD WBC-9.7 RBC-3.88* Hgb-10.6* Hct-33.8* 
MCV-87 MCH-27.3 MCHC-31.4* RDW-15.0 RDWSD-46.8* Plt ___

___ 06:00AM BLOOD Glucose-152* UreaN-19 Creat-0.8 Na-141 
K-3.8 Cl-103 HCO3-26 AnGap-12
___ 04:07AM BLOOD Glucose-136* UreaN-18 Creat-0.8 Na-141 
K-4.0 Cl-106 HCO3-26 AnGap-9*
___ 06:10AM BLOOD Glucose-112* UreaN-19 Creat-0.9 Na-141 
K-4.9 Cl-103 HCO3-24 AnGap-14

___ 06:00AM BLOOD Calcium-8.5 Phos-1.9* Mg-1.9
___ 04:07AM BLOOD Calcium-8.4 Phos-2.9 Mg-2.1
___ 06:10AM BLOOD Calcium-8.7 Phos-2.5* Mg-2.0

Imaging:
___ (OSH)
CT abdomen/pelvis:
IMPRESSION:
1. Small bowel obstruction with two transition points, 
concerning for closed loop component.
2. Areas of decreased mural wall enhancement of the small bowel 
in the mid lower abdomen are concerning for developing ischemia. 
No evidence of pneumatosis or pneumoperitoneum.
3. Intermediate density intraperitoneal fluid may be 
artifactually increased in attenuation secondary to beam 
hardening artifact.
4. 1.3 cm ill-defined hyperdensity adjacent to the spleen is 
poorly characterized on this single phase exam and is 
nonspecific. Comparison to prior examinations would be helpful 
if available.
5. Concentric bladder wall thickening. Recommend correlation 
with urinalysis.
6. Prostatomegaly.

EXAMINATION:  CT ABD AND PELVIS WITH CONTRAST (___)
IMPRESSION: 
1. Mechanical small-bowel obstruction, likely secondary to 
adhesions, with two 
possible transition points. 
2. Areas of decreased mural wall enhancement of the dilated 
small bowel loops 
in the mid lower abdomen are concerning for developing ischemia. 
 No evidence 
of pneumatosis or pneumoperitoneum. 
3. Intermediate density intraperitoneal fluid may be 
artifactually increased 
in attenuation secondary to beam hardening artifact. 
4. Nonspecific 1.3 cm area of high attenuation lateral to the 
spleen.  If 
there is any history of trauma, findings would be concerning for 
hemorrhage.  
Otherwise, comparison to prior examinations would be helpful if 
available. 
5. Concentric bladder wall thickening.  Recommend correlation 
with urinalysis. 
6. Prostatomegaly. 

Final Report 
EXAMINATION:  CHEST (PORTABLE AP) (___)  
IMPRESSION:  
In comparison with the study ___, no evidence of the PICC 
line is seen within the chest or axillary region.  The 
endotracheal and nasogastric tubes have been removed. Cardiac 
silhouette is unchanged and there is no evidence of acute 
pneumonia, vascular congestion, or pleural effusion. 

Pathology:
SURGICAL PATHOLOGY REPORT - Final
PATHOLOGIC DIAGNOSIS:
1. Small intestine, resection:
- Small intestinal segment with transmural acute inflammation, 
hemorrhage, and mucosal ischemia consistent with incipient 
hemorrhagic infarction; margins viable.

 
Brief Hospital Course:
ICU Course (___)

Mr. ___ was taken urgently to the operating room for diagnosis 
of closed loop small bowel obstruction. About 6 feet of ischemic 
bowel were resected and he underwent primary anastomosis. He was 
transferred to the Surgical ICU postoperatively as he was in 
septic shock. His pressor requirement was quickly weaned and he 
was extubated on POD1 without difficulties. His NGT was removed 
on POD3 and he was started on clears. He was transferred to the 
floor on POD3. His diet was advanced and he was having bowel 
movements. He was started on his home medications, except 
isosorbide mononitrate and lisinopril were held, and completed 
96h of antibiotics postoperatively. ___ was consulted and 
recommended rehab once medically clear.

Geriatrics was consulted due to delirium and insomnia. They 
recommended adding trazodone and ramelteon. ___ diabetes was 
consulted and made adjustments to his diabetes medication for 
episodes of hypoglycemia. The patient was close to his baseline 
mental status during his hospitalization but suffered from 
sun-downing.

The patient voided without problem. During this hospitalization, 
the patient was out of bed with assist to chair and passively 
participated in the plan of care. The patient received 
subcutaneous heparin and pneumoboots were used during this stay.

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a regular 
pureed diet, out of bed with assist to chair, voiding without 
assistance via condom catheter, and pain was well controlled.  
The patient was discharged to rehab. The patient's wife received 
discharge teaching and follow-up instructions with understanding 
verbalized and agreement with the discharge plan. Follow-up was 
scheduled with the ___ clinic.
 
Medications on Admission:
-Glucerna oral liquid
-Levemir FlexTouch U-100 Insulin 100 unit/mL (3 mL) subcutaneous
pen ___ units SC at bedtime
-Novolog Flexpen 100 unit/mL subcutaneous, per sliding scale
-Pedialyte oral solution
-Vitamin B-12 1,000 mcg tablet
-aspirin 81 mg tablet daily
-atorvastatin 40 mg daily
-calcitriol 0.25 mcg capsule every other day
-latanoprost 0.005 % eye drops 1 gtt OS-OD 
-nitroglycerin 0.4 mg sublingual tablet PRN chest pain
-ranitidine 150 mg tablet
 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID  
2.  Chlorhexidine Gluconate 0.12% Oral Rinse 15 mL ORAL BID  
3.  Heparin 5000 UNIT SC BID  
4.  Glargine 2 Units Lunch
Insulin SC Sliding Scale using HUM Insulin 
5.  Multivitamins W/minerals 1 TAB PO DAILY  
6.  Thiamine 100 mg PO DAILY Duration: 5 Days  
7.  TraZODone 12.5 mg PO QHS  
8.  Aspirin 81 mg PO DAILY  
9.  Atorvastatin 40 mg PO QPM  
10.  Calcitriol 0.25 mcg PO EVERY OTHER DAY  
11.  Ranitidine (Liquid) 150 mg PO DAILY  
12. HELD- Isosorbide Mononitrate (Extended Release) 30 mg PO 
DAILY  This medication was held. Do not restart Isosorbide 
Mononitrate (Extended Release) until the patient returns home or 
his blood pressure remains elevated.
13. HELD- Lisinopril 2.5 mg PO DAILY  This medication was held. 
Do not restart Lisinopril until the patient returns home or his 
blood pressure remains elevated.

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Closed loop small bowel obstruction with necrotic mid-small 
bowel

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Lethargic but arousable.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
You were admitted to the hospital for abdominal pain and were 
found to have a closed loop bowel obstruction. You were taken 
urgently to the operating room and underwent an exploratory 
laparotomy with a small bowel resection. The procedure went 
well. You were monitored closely during your postoperative 
course in the ICU. You are now tolerating a regular diet. Your 
vitals signs and lab work have been stable. You have been 
cleared to continue your recovery at a rehabilitation facility.

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

Avoid driving or operating heavy machinery while taking pain 
medications.

Incision Care:
*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with a mild soap 
and warm water. Gently pat the area dry.
*If you have staples, they will be removed at your follow-up 
appointment.

 
Followup Instructions:
___